US06184225B2
A suspension of 6-methoxy-7-nitro-3,4-dihydroquinazolin-4-one (8 g, 36 mmol) in thionyl chloride (150 ml) and DMF (0.8 ml) was heated at reflux for 3 hours. Excess thionyl chloride was removed by evaporation and the residue azeotroped with toluene. The resulting solid was triturated with ether, collected by filtration and dried under vacuum to give 4-chloro-6-methoxy-7-nitroquinazoline hydrochloride(7.5 g, 75%).

reactant | 6-methoxy-7-nitro-3,4-dihydroquinazolin-4-one | 36 mmol, 8 g | COC=1C=C2C(NC=NC2=CC1[N+](=O)[O-])=O | C9H7N3O4
reactant | thionyl chloride | 150 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 0.8 ml | CN(C)C=O | C3H7NO
product | 4-chloro-6-methoxy-7-nitroquinazoline hydrochloride | 7.5 g, 75% | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)[N+](=O)[O-] | InChI=1S/C9H6ClN3O3.ClH/c1-16-8-2-5-6(3-7(8)13(14)15)11-4-12-9(5)10;/h2-4H,1H3;1H
